US07485637B2
[5-Methanesulfonyl-2-(2,2,2-trifluoro-ethoxy)-phenyl]-[4-(4-trifluoromethyl-phenyl)3,6-dihydro-2H-pyridin-1-yl]-methanone
To a solution of 0.17 mmol 5-methanesulfonyl-2-(2,2,2-trifluoro-ethoxy)-benzoic acid in 0.75 ml dimethylformamide, 0.19 mmol TBTU, 0.855 mmol N-ethyldiisopropylamine and 0.205 mmol 4-(4-trifluoromethyl-phenyl)-1,2,3,6-tetrahydro-pyridine were successively added. The reaction was then stirred at RT for 45 min., concentrated in vacuo and purified by column chromatography (SiO2, 10 g, heptane, ethylacetate 0 to 100%), to give the title compound. MS (m/e): 508.6 (MH+, 100%)

reactant | 5-methanesulfonyl-2-(2,2,2-trifluoro-ethoxy)-benzoic acid | 0.17 mmol | CS(=O)(=O)C=1C=CC(=C(C(=O)O)C1)OCC(F)(F)F | C10H9F3O5S
reactant | TBTU | 0.19 mmol | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
reactant | N-ethyldiisopropylamine | 0.855 mmol | C(C)N(C(C)C)C(C)C | C8H19N
reactant | 4-(4-trifluoromethyl-phenyl)-1,2,3,6-tetrahydro-pyridine | 0.205 mmol | FC(C1=CC=C(C=C1)C=1CCNCC1)(F)F | C12H12F3N
solvent | dimethylformamide | 0.75 ml | CN(C=O)C | C3H7NO
product | [5-Methanesulfonyl-2-(2,2,2-trifluoro-ethoxy)-phenyl]-[4-(4-trifluoromethyl-phenyl)3,6-dihydro-2H-pyridin-1-yl]-methanone | CS(=O)(=O)C=1C=CC(=C(C1)C(=O)N1CCC(=CC1)C1=CC=C(C=C1)C(F)(F)F)OCC(F)(F)F | C22H19F6NO4S
